US07053212B2
Step B: [4-(2-Pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine
To a solution of 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (1.92 g, 9.30 mmol) and 3-(tetrahydro-pyran-2-yloxy)-benzaldehyde (2.01 g, 9.76 mmol) in 35 mL methylene chloride was added magnesium sulfate (3.91 g, 32.5 mmol). The reaction mixture was stirred overnight under nitrogen at room temperature. The reaction mixture was filtered and concentrated. The residue was resuspended in 40 mL of 2:1 ethanol:methanol and was treated with sodium borohydride (1.76 g, 46.5 mmol) which was added in portions at room temperature over a period of 1 hr. The reaction was stirred at room temperature overnight. To this mixture was added water and saturated aqueous sodium bicarbonate. The mixture was extracted with methylene chloride and the organic layer was dried (magnesium sulfate), filtered, and concentrated. Medium pressure silica gel chromatography of the residue (methylene chloride to 10% methanol/methylene chloride) afforded 2.34 g (64%) of the title compound. MS 397.2 (M+1)+

reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 9.30 mmol, 1.92 g | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | 3-(tetrahydro-pyran-2-yloxy)-benzaldehyde | 9.76 mmol, 2.01 g | O1C(CCCC1)OC=1C=C(C=O)C=CC1 | C12H14O3
reactant | magnesium sulfate | 32.5 mmol, 3.91 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 46.5 mmol, 1.76 g | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 35 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | [4-(2-Pyrrolidin-1-yl-ethoxy)-phenyl]-[3-(tetrahydro-pyran-2-yloxy)-benzyl]-amine | 2.34 g, 64% | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=CC(=CC=C1)OC1OCCCC1 | C24H32N2O3
